US05075437
To a solution of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-1,3-dimethyl-3-(trimethylsilyloxy)-2-oxobutyl]-2-azetidinone (132 mg) in methanol (6 ml) was added oxalic acid dihydrate (200 mg) at room temperature and the mixture was stirred for 1 hour. The reaction mixture was evaporated, and diethyl ether (30 ml) and saturated aqueous sodium bicarbonate (10 ml) were slowly added to the residue. The solution was extracted twice with diethyl ether, and the extracts were combined and washed in turn with saturated aqueous sodium bicarbonate and brine. The organic layer was dried over magnesium sulfate and evaporated to give (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-3-hydroxy-1,3-dimethyl-2-oxobutyl]-2-azetidinone (109 mg).

reactant | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-1,3-dimethyl-3-(trimethylsilyloxy)-2-oxobutyl]-2-azetidinone | 132 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(C(C)(O[Si](C)(C)C)C)=O)C)=O | C20H41NO4Si2
reactant | oxalic acid dihydrate | 200 mg | O.O.C(C(=O)O)(=O)O
solvent | methanol | 6 ml | CO | CH4O
product | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-[(1R)-3-hydroxy-1,3-dimethyl-2-oxobutyl]-2-azetidinone | 109 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(C(C)(C)O)=O)C)=O | C17H33NO4Si
